US05405979
1.7 g of 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one is dissolved in 25 ml of absolute dimethylformamide and mixed with 270 mg of lithium chloride and 190 mg of tetrakistriphenylphosphinepalladium. After five more minutes of stirring, the reaction mixture is mixed with 1.15 ml of tributylvinyltin, stirred for 1 hour at 110° C. under protective gas, cooled to room temperature and diluted with ethyl acetate. After filtration on Celite and washing of the filter residue with ethyl acetate, the organic phase is washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. Chromatography of the residue on aluminum oxide (neutral, stage II) with a mixture of ethyl acetate/hexane yields 1.2 g of 3,3-(ethylenedioxy)-11β-(4-vinylphenyl)-5-estren-17-one as white foam.

reactant | 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one | 1.7 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)=O)OC1 | C27H31F3O6S
reactant | lithium chloride | 270 mg | [Cl-].[Li+]
reactant | tributylvinyltin | 1.15 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 190 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,3-(ethylenedioxy)-11β-(4-vinylphenyl)-5-estren-17-one | 1.2 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)C=C)=O)OC1 | C28H34O3
